US04426524
A solution of 2.4 g (0.008 mol) of 2-methyl-3-(pyrazinyl)-benzenemethanol tetrahydropyranyl ether and 0.21 g of the pyridinium salt of 4-methylbenzenesulfonic acid in 35 mL of ethanol was warmed to 50° C.±5° C., and stirred for 24 hours. The reaction mixture was concentrated under reduced pressure, and the residue stirred for one hour with a mixture of 50 mL of methylene chloride and 50 mL of water. The organic layer was separated, dried, and concentrated under reduced pressure to give 1.6 g 2-methyl-3-(pyrazinyl)phenylmethanol as an oily solid residue.

reactant | 2-methyl-3-(pyrazinyl)-benzenemethanol tetrahydropyranyl ether | 0.008 mol, 2.4 g | O1C(CCCC1)OCC1=C(C(=CC=C1)C1=NC=CN=C1)C | C17H20N2O2
reactant | 4-methylbenzenesulfonic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | 2-methyl-3-(pyrazinyl)phenylmethanol | 1.6 g | CC1=C(C=CC=C1C1=NC=CN=C1)CO | C12H12N2O
